US06730788B1
2-((1S,3S,4S,5R)-(1-isoPropyl-4-methylbicyclo[3.1.0]hex-3-yl))-9-((1S,3R,4S,5R)-(3-Hydroxy-1-isopropyl-4-methylbicyclo[3.1.0]hex-3-yl))-1,10-phenanthroline
By following General Procedure I, 2-((1S,3S,4S,5R)-(1-isopropyl-4-methylbicyclo[3.1.0]hex-3-yl))-1,10-phenanthroline prepared as described by Example 18, is reacted with samarium diiodide and (−)-thujone to form the title compound.

reactant | 2-((1S,3S,4S,5R)-(1-isopropyl-4-methylbicyclo[3.1.0]hex-3-yl))-1,10-phenanthroline | C(C)(C)[C@@]12C[C@@H]([C@H]([C@H]2C1)C)C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C22H24N2
reactant | samarium diiodide | [I-].[I-].[Sm+2]
reactant | (−)-thujone | C[C@H]1[C@@H]2C[C@@]2(CC1=O)C(C)C | C10H16O
product | 2-((1S,3S,4S,5R)-(1-isoPropyl-4-methylbicyclo[3.1.0]hex-3-yl))-9-((1S,3R,4S,5R)-(3-Hydroxy-1-isopropyl-4-methylbicyclo[3.1.0]hex-3-yl))-1,10-phenanthroline | C(C)(C)[C@@]12C[C@@H]([C@H]([C@H]2C1)C)C1=NC2=C3N=C(C=CC3=CC=C2C=C1)[C@]1(C[C@@]2(C[C@@H]2[C@@H]1C)C(C)C)O | C32H40N2O
